US04126689
A mixture of 10 parts of ethyl 4-[N-(4-chlorophenyl)-N-(phenylacetyl)amino]-1-piperidinecarboxylate and 125 parts of glacial acetic acid, previously saturated with gaseous hydrogen bromide, is heated for 9h. 45 at 62° C., while stirring. The reaction mixture is cooled and glacial acetic acid is evaporated in vacuo. The semi-solid residue is taken up in 150 parts of water, alkalized with a concentrated sodium hydroxide solution and the product is extracted with trichloromethane. The extract is dried over sodium sulfate and evaporated. The oily residue is triturated in 56 parts of 1,1'-oxybisethane and the solid crude free base is filtered off. It is converted into the hydrochloride salt in the conventional manner in 1,1'-oxybisethane and 2-propanone, yielding 4 parts of N-(4-chlorophenyl)-N-(4-piperidinyl)benzeneacetamide hydrochloride; mp. 206.5° C.

reactant | ethyl 4-[N-(4-chlorophenyl)-N-(phenylacetyl)amino]-1-piperidinecarboxylate | ClC1=CC=C(C=C1)N(C(CC1=CC=CC=C1)=O)C1CCN(CC1)C(=O)OCC | C22H25ClN2O3
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(4-chlorophenyl)-N-(4-piperidinyl)benzeneacetamide hydrochloride | Cl.ClC1=CC=C(C=C1)N(C(CC1=CC=CC=C1)=O)C1CCNCC1 | InChI=1S/C19H21ClN2O.ClH/c20-16-6-8-17(9-7-16)22(18-10-12-21-13-11-18)19(23)14-15-4-2-1-3-5-15;/h1-9,18,21H,10-14H2;1H
